US06156700
Preparation of 3-[3-(2-Bromoethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
To a solution of 3-[3-(2-hydroxyethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.690 g, 0.00185 mol) in methylene chloride is added carbon tetrabromide (0.655 g, 0.00197 mol) followed by triphenylphosphine (0.517 g, 0.00197 mol). The mixture is stirred three hours at ambient temperature and treated with additional carbon tetrabromide (0.328 g, 0.000988 mol) and triphenyl phosphine (0.259 g, 0.000987 mol). The resultant mixture is stirred 85 minutes, diluted with methanol, and concentrated in vacuo. The resultant solid is taken up in methylene chloride, washed with saturated sodium bicarbonate and water, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to a yellow solid. The yellow solid is chromatographed on silica gel with methylene chloride to give the title product as an off-white solid (0.530 g, 66.0%) which is identified by NMR and elemental analyses.

reactant | 3-[3-(2-hydroxyethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.00185 mol, 0.690 g | OCCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H12F3N3O3S
reactant | carbon tetrabromide | 0.00197 mol, 0.655 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.00197 mol, 0.517 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.000988 mol, 0.328 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenyl phosphine | 0.000987 mol, 0.259 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 3-[3-(2-Bromoethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.530 g, 66.0% | BrCCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H11BrF3N3O2S
